US05719164
a) 2-Nitro-5-(2,2,3,3-tetrafluoropropyloxy)toluene
28 g of potassium carbonate, 70 ml of tetrafluoropropanol and 26.4 g of 5-fluoro-2-nitrotoluene were reacted; 45 g of oily crude product.

reactant | potassium carbonate | 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-nitrotoluene | 26.4 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | tetrafluoropropanol | 70 ml | FC(C(O)(F)F)(C)F | C3H4F4O
product | 2-Nitro-5-(2,2,3,3-tetrafluoropropyloxy)toluene | [N+](=O)([O-])C1=C(C=C(C=C1)OCC(C(F)F)(F)F)C | C10H9F4NO3
